US04012413
In the manner given in Example 1, N,N-diethyl-4-methyl-8-fluoro-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine-1-acetamide is reduced with borane to give 1-[2-diethylamino)ethyl]-4-methyl-8-fluoro-5,6-dihydro-6-(o-fluorophenyl)-4H-s-triazolo]4,3-a][1,4]benzodiazepine.

reactant | N,N-diethyl-4-methyl-8-fluoro-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine-1-acetamide | C(C)N(C(CC1=NN=C2N1C1=C(C(=NC2C)C2=C(C=CC=C2)F)C=C(C=C1)F)=O)CC | C23H23F2N5O
reactant | borane | B | BH3
product | [1,4]benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
